US04942170
2-(5-Nitro-2-furanylmethylidene)-N-(3-dimethylaminopropyl)hydrazinecarboximidamide dihydrobromide (Compound C)
5-Nitro-2-furaldehyde (0.564 g, 4 mmole) and N-(3-dimethylaminopropyl)hydrazinecarboximidamide dihydrobromide (1.6 g, 5 mmole) are heated at reflux in 8 ml 95% ethanol for 1 hour. The title compound precipitates from solution on cooling and is recrystallized from ethanol, mp 131°-133° C.

reactant | 5-Nitro-2-furaldehyde | 4 mmole, 0.564 g | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
reactant | N-(3-dimethylaminopropyl)hydrazinecarboximidamide dihydrobromide | 5 mmole, 1.6 g | Br.Br.CN(CCCNC(=N)NN)C
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-(5-Nitro-2-furanylmethylidene)-N-(3-dimethylaminopropyl)hydrazinecarboximidamide dihydrobromide | Br.Br.[N+](=O)([O-])C1=CC=C(O1)C=NNC(NCCCN(C)C)=N | InChI=1S/C11H18N6O3.2BrH/c1-16(2)7-3-6-13-11(12)15-14-8-9-4-5-10(20-9)17(18)19;;/h4-5,8H,3,6-7H2,1-2H3,(H3,12,13,15);2*1H
